US07319099B2
(a) 3,4-Difluoro-benzenesulfinic acid
To 2.47 mol sodium sulfite in 1120 ml water at RT was added dropwise over 20 min a solution of 329 mmol 3,4-difluoro-benzenesulfonyl chloride in 560 ml dioxane and stirring continued for a further 30 min. 1 M aq NaOH was then added dropwise until the reaction mixture was pH 14, and the mixture was then allowed to stir at RT for a further 16 h. The mixture was then cooled to 0° C. and concentrated H2SO4 added until the reaction mixture was pH 1. The mixture was extracted three times with ethyl acetate, and the combined organic phases washed with saturated aq NaCl solution and then dried with Na2SO4. Evaporation in vacuo yielded the title compound. MS (m/e): 177.1 ([M−H]−, 100%)

reactant | sodium sulfite | 2.47 mol | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 3,4-difluoro-benzenesulfonyl chloride | 329 mmol | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | 1120 ml | O | H2O
solvent | dioxane | 560 ml | O1CCOCC1 | C4H8O2
product | 3,4-Difluoro-benzenesulfinic acid | FC=1C=C(C=CC1F)S(=O)O | C6H4F2O2S
